US06403610B1
A solution of 0.531 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,6-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate in 5.3 cm3 of dioxane to which had been added 0.84 cm3 of 5N aqueous sodium hydroxide solution was stirred for 15 hours at a temperature in the region of 60° C. After cooling to a temperature in the region of 20° C., the reaction mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography under a nitrogen pressure of 50 kPa on a column of silica gel (particle size 20-45 μm; diameter 3 cm; 20 g), elution was carried out with a dichloromethane/methanol (90/10 by volume) mixture, and first a fraction of 100 cm3 was collected, followed by 25-cm3 fractions. Fractions 1 to 12 were combined and then concentrated as above. A foam was obtained, which product was taken up with stirring in 15 cm3 of diisopropyl ether for 15 minutes. After adding 15 cm3 of pentane and stirring for an additional 10 minutes, the crystallized product formed was filtered off, washed with 2 times 10 cm3 of a diisopropyl ether/pentane (50/50 by volume) mixture, and then 3 times 20 cm3 of pentane, and dried in the air. 0.293 g of (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,6-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylic acid was obtained in the form of a solid with a cream color melting at 107° C.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,6-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate | 0.531 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC1=C(C=CC=C1F)F)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C29H30F2N2O4
reactant | sodium hydroxide | 5N, 0.84 cm3 | [OH-].[Na+]
reactant | pentane | 15 cm3 | CCCCC | C5H12
solvent | dioxane | 5.3 cm3 | O1CCOCC1 | C4H8O2
solvent | diisopropyl ether | 15 cm3 | C(C)(C)OC(C)C | C6H14O
product | (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(2,6-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylic acid | 0.293 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC1=C(C=CC=C1F)F)C(=O)O)C1=CC=NC2=CC=C(C=C12)OC | C28H28F2N2O4
